US06919322B2
Preparation of 2-Amino-4-tert-butyl-1-phosphonomethoxybenzene (Compound No. 15.01)
The compound 2-amino-4-tert-butyl-1-diethylphosphonomethoxybenzene was deesterified with TMSBr as described in Step D, Example 1, to provide the title compound (no. 15.01) as a solid. HPLC Rt=4.45 min; negative ion electrospray MS M−1 found: 258.

reactant | 2-amino-4-tert-butyl-1-diethylphosphonomethoxybenzene | NC1=C(C=CC(=C1)C(C)(C)C)OCP(=O)(OCC)OCC | C15H26NO4P
reactant | TMSBr | C[Si](C)(C)Br | C3H9BrSi
product | 2-Amino-4-tert-butyl-1-phosphonomethoxybenzene | NC1=C(C=CC(=C1)C(C)(C)C)OCP(=O)(O)O | C11H18NO4P
